US04313896
A secondary N-benzylamine can likewise be debenzylated to produce the desired primary amine. To prepare such a secondary benzlamine, 3-chloro-1-(o-anisyloxy)propylbenzene or other 1-substituted phenyl-3-chloropropylbenzene, utilized as an intermediate in an earlier procedure, can be reacted with benzylamine to yield N-benzyl 3-phenyl-3-(o-anisyloxy)propylamine.

reactant | 3-chloro-1-(o-anisyloxy)propylbenzene | ClC=1C=C(C=CC1)C(CC)OCC=1C(=CC=CC1)OC | C17H19ClO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl 3-phenyl-3-(o-anisyloxy)propylamine | C(C1=CC=CC=C1)NCCC(OCC=1C(=CC=CC1)OC)C1=CC=CC=C1 | C24H27NO2
